US07662963B2
Comparative Preparation of Tiotropium Bromide from N-demethyltiotropium According to U.S. Pat. No. 5,610,163
10.0 g (0.0265 mole) of scopine di-(2-thienyl)glycolate was dissolved in a mixture comprising 20 mL of anhydrous methylene chloride and 30 mL of anhydrous acetonitrile and treated with 12.8 g (0.1325 mole) of methyl bromide (as 50% strength solution in anhydrous acetonitrile), and the reaction mixture was allowed to stand for 24 hours at room temperature in a tightly sealed reaction vessel. Crystals were precipitated during this time. They are filtered off under suction, washed using methylene chloride and dried at 35° C. under reduced pressure. White crystals were obtained (from methanol/acetone), m.p. 217.8 C. (decomposition) after drying at 111° C. under reduced pressure.

reactant | scopine di-(2-thienyl)glycolate | 0.0265 mole, 10.0 g | CN1[C@@H]2CC(C[C@H]1[C@H]3[C@@H]2O3)OC(=O)C(C4=CC=CS4)(C5=CC=CS5)O | C18H19NO4S2
reactant | methyl bromide | 0.1325 mole, 12.8 g | CBr | CH3Br
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | Tiotropium Bromide | C[N+]1([C@@H]2C[C@H](C[C@H]1[C@H]3[C@@H]2O3)OC(=O)C(C4=CC=CS4)(C5=CC=CS5)O)C.O.[Br-] | InChI=1S/C19H22NO4S2.BrH.H2O/c1-20(2)12-9-11(10-13(20)17-16(12)24-17)23-18(21)19(22,14-5-3-7-25-14)15-6-4-8-26-15;;/h3-8,11-13,16-17,22H,9-10H2,1-2H3;1H;1H2/q+1;;/p-1/t11-,12-,13+,16-,17+;;
